US04115568
(n) Methyl 5-methyl-2-(2-nitro-4-fluoroanilino)-thiophene-3-carboxylate
Methyl 2-amino-5-methyl-thiophene-3-carboxylate and 2,5-difluoronitrobenzene, m.p. 149°-151° C. (EtOH).

reactant | Methyl 2-amino-5-methyl-thiophene-3-carboxylate | NC=1SC(=CC1C(=O)OC)C | C7H9NO2S
reactant | 2,5-difluoronitrobenzene | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | EtOH | CCO | C2H6O
product | Methyl 5-methyl-2-(2-nitro-4-fluoroanilino)-thiophene-3-carboxylate | CC1=CC(=C(S1)NC1=C(C=C(C=C1)F)[N+](=O)[O-])C(=O)OC | C13H11FN2O4S
